US07071182B2
3-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine
A mixture of 3-bromo-5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole (1.9 g, 5.6 mmol), iron powder (3.1 g, 56 mmol), and ammonium chloride (0.15 g, 2.8 mmol) in 80% ethanol was heated to reflux for 3 hours, cooled to room temperature and concentrated under reduced pressure. The residue was taken up and stirred in triethylamine/ethyl acetate (1/4, 20 mL) for 15 minutes, filtered through a plug of silica gel, which was rinsed with triethylamine/ethyl acetate (1/4), and the filtrate concentrated under reduced pressure to provide the title compound (1.2 g, 70%). 1H NMR (300 MHz, DMSO-d6) ppm 1.62 (m, 4H), 2.44 (m, 4H), 2.81 (t, 2H, J=6.44), 4.36 (t, J=6.44, 2H), 5.05 (s, 2H), 6.52 (m, 1H), 6.88 (m, 1H), 7.42 (m, 1H); MS (DCI/NH3) m/z 309 [M+H]+.

reactant | 3-bromo-5-nitro-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazole | 5.6 mmol, 1.9 g | BrC1=NN(C2=CC=C(C=C12)[N+](=O)[O-])CCN1CCCC1 | C13H15BrN4O2
reactant | ammonium chloride | 2.8 mmol, 0.15 g | [Cl-].[NH4+]
solvent | ethanol | C(C)O | C2H6O
catalyst | iron | 56 mmol, 3.1 g | [Fe] | Fe
product | 3-bromo-1-(2-pyrrolidin-1-yl-ethyl)-1H-indazol-5-ylamine | 1.2 g, 70% | BrC1=NN(C2=CC=C(C=C12)N)CCN1CCCC1 | C13H17BrN4
